US06765012B2
4-Methyl-3-{[4-(3-piperidin-1-yl-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(3-Piperidin-1-yl-propoxy)-phenylamine (0.61 g, 1.3 equiv.) and 4-methyl-3-hydroxymethylene-1,3-dihydro-indol-2-one (0.35 g, 2 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (388 mg, 49%).

reactant | 4-(3-Piperidin-1-yl-propoxy)-phenylamine | 0.61 g, 1.3 equiv. | N1(CCCCC1)CCCOC1=CC=C(C=C1)N | C14H22N2O
reactant | 4-methyl-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2 mmol, 0.35 g, 1 equiv. | CC1=C2C(C(NC2=CC=C1)=O)=CO | C10H9NO2
product | 4-Methyl-3-{[4-(3-piperidin-1-yl-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 388 mg, 49% | CC1=C2C(C(NC2=CC=C1)=O)=CNC1=CC=C(C=C1)OCCCN1CCCCC1 | C24H29N3O2
